US04758579
3. 2-[(4,5-Dimethoxy-2-pyridyl)methylthio]-5-(1,1,2,2-tetrafluoroethoxy)-1H-benzimidazole
1.40 g of the title compound are obtained as a yellow oil by the procedure described in Example 1, by reacting 1.07 g of 2-mercapto-5-(1,1,2,2-tetrafluoroethoxy)-1H-benzimidazole with 0.90 g of 2-chloromethyl-4,5-dimethoxypyridinium chloride in 15 ml of ethanol with the addition of 17 ml of 0.5N sodium hydroxide solution. Recrystallization from petroleum ether yields 1.20 g (72% of theoretical) of the desired compound as colorless crystals of m.p. 125°-127° C.

reactant | 2-mercapto-5-(1,1,2,2-tetrafluoroethoxy)-1H-benzimidazole | 1.07 g | SC1=NC2=C(N1)C=CC(=C2)OC(C(F)F)(F)F | C9H6F4N2OS
reactant | 2-chloromethyl-4,5-dimethoxypyridinium chloride | 0.90 g | [Cl-].ClCC1=[NH+]C=C(C(=C1)OC)OC
reactant | sodium hydroxide | 0.5N, 17 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-[(4,5-Dimethoxy-2-pyridyl)methylthio]-5-(1,1,2,2-tetrafluoroethoxy)-1H-benzimidazole | COC1=CC(=NC=C1OC)CSC1=NC2=C(N1)C=CC(=C2)OC(C(F)F)(F)F | C17H15F4N3O3S
